US03960836
4-Hydroxy-3-β-D-ribofuranosyl-N1 -acetylpyrazole-5-carboxamide
A solution of 1.0 g. of 4-hydroxy-3-β-D-ribofuranosylpyrazole-5-carboxamide in 20 cc. of anhydrous methyl alcohol was stirred and cooled to 0°C. To the cold stirred solution was added 5 cc. of acetic anhydride dropwise over about 10 minutes. The reaction mixture was stirred for about 1 hour while the temperature was allowed to increase to about 25°C. The solvent was removed under reduced pressure to provide an oily residue which was dissolved in 25 cc. of 50 percent methanol-toluene. Again the solvent was removed under reduced pressure. This procedure was repeated three times to insure complete removal of any excess acylating agent. After the final solvents were totally removed, 4-hydroxy-3β-D-ribofuranosyl-N1 -acetylpyrazole-5-carboxamide remained as a white solid.

reactant | 4-hydroxy-3-β-D-ribofuranosylpyrazole-5-carboxamide | OC=1C(=NNC1C(=O)N)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C9H13N3O6
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | methyl alcohol | CO | CH4O
product | 4-Hydroxy-3-β-D-ribofuranosyl-N1 -acetylpyrazole-5-carboxamide | OC=1C(=NN(C1C(=O)N)C(C)=O)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C11H15N3O7
